US07005440B1
5-Chloro-2-hydroxy-3-methoxy-benzaldehyde
A solution of sulfuryl chloride (15 mL, 190 mmol) in toluene (20 mL) is added dropwise over 1.5 h to a solution of o-vanillin (25.0 g, 164 mmol) in toluene (90 mL) and the reaction is then stirred 16 h. Water (30 mL) is added over 10 minutes with ice-bath cooling. The solid is filtered, washed with water and dried to provide the title compound. MS (EI) 186 (M)+.

reactant | sulfuryl chloride | 190 mmol, 15 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | o-vanillin | 164 mmol, 25.0 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | Water | 30 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-hydroxy-3-methoxy-benzaldehyde | ClC=1C=C(C(=C(C=O)C1)O)OC | C8H7ClO3
